US07470710B2
(RS)-1-[2-(1H-benzoimidazol-2-ylmethyl)-piperidin-1-yl]-1-[5-(4-fluoro-phenyl)-2-methyl-thiazol-4-yl]-methanone
(RS)-(1-{1-[5-(4-Fluoro-phenyl)-2-methyl-thiazol-4-yl]-methanoyl}-piperidin-2-yl)-acetic acid, D17 (110 mg, 0.3 mmol) and benzene-1,2-diamine (33 mg, 0.3 mmol) in PPA (2 g) were heated at 140° C. for 3.5 h. The cooled reaction mixture was poured onto a mixture of crushed ice and K2CO3. The basic aqueous solution was extracted with ethyl acetate (3×). The combined organics were washed with brine, dried (MgSO4) and the solvent removed in vacuo. Chromatography (silica gel, ethyl acetate) afforded the title compound as a dark yellow gum (72 mg, 52%).

reactant | (RS)-(1-{1-[5-(4-Fluoro-phenyl)-2-methyl-thiazol-4-yl]-methanoyl}-piperidin-2-yl)-acetic acid | FC1=CC=C(C=C1)C1=C(N=C(S1)C)C(=O)N1C(CCCC1)CC(=O)O | C18H19FN2O3S
reactant | benzene-1,2-diamine | 0.3 mmol, 33 mg | C=1(C(=CC=CC1)N)N | C6H8N2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
product | (RS)-1-[2-(1H-benzoimidazol-2-ylmethyl)-piperidin-1-yl]-1-[5-(4-fluoro-phenyl)-2-methyl-thiazol-4-yl]-methanone | 72 mg, 52% | N1C(=NC2=C1C=CC=C2)CC2N(CCCC2)C(=O)C=2N=C(SC2C2=CC=C(C=C2)F)C | C24H23FN4OS
